US05068458
A solution of 2-dibromomethyl-6-methoxynaphthalene (3 g) in acetone (25 ml) was treated with water (7 ml) and the mixture stirred at 24° C. for 10 hours. The solvent was removed under vacuum and the residue dissolved in toluene (30 ml). The toluene solution was washed with saturated sodium bicarbonate solution (2×10 ml) and water (10 ml) and dried over MgSO4. The dried solution was filtered and the filtrate evaporated down to a yellowish-brown semi-solid. This was recrystallised twice from isopropanol (2×10 ml) to give 0.5 g of pure 2-methoxynaphthaldehyde as confirmed using HPLC (conditions; spheresorb C18 25 cm×4.5 mm i.d. (column), 65% acetonitrile/35% water (eluent), 1 ml/min (flowrate), 310 nm (wavelength). The samples were dissolved in acetonitrile and 20 μl injected onto the column. The retention time for 2-methoxynaphthaldehyde was about 6 minutes.

reactant | 2-dibromomethyl-6-methoxynaphthalene | 3 g | BrC(C1=CC2=CC=C(C=C2C=C1)OC)Br | C12H10Br2O
reactant | water | 7 ml | O | H2O
reactant | acetone | 25 ml | CC(=O)C | C3H6O
product | 2-methoxynaphthaldehyde | 0.5 g | COC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O2
